### PR TITLE
Introduce `VariableState` in the interpreter and fix remainnig sorries

### PR DESCRIPTION
**Pull request by math-fehr**
The idea is that getting/setting variables in a `VariableState` that is contained in the `InterpreterState` makes things easier for proofs. This is because we do not have to write many small lemmas about separation between memory and variable states. In general, it just makes things easier to manipulate.

### CODE REVIEW

**Review by tobiasgrosser — APPROVED** [review]
Nice.

**Review by ineol — APPROVED** [review]

File: Veir/Interpreter/Basic.lean [hunk 1]
```diff
@@ -55,68 +55,77 @@ structure MemoryState where
...
+theorem VariableState.ext {s₁ s₂ : VariableState} :
     (∀ var, s₁.getVar? var = s₂.getVar? var) →
-    s₁.memory = s₂.memory →
     s₁ = s₂ := by
   rcases s₁; rcases s₂
-  simp only [getVar?, mk.injEq]
+  simp only [VariableState.getVar?, mk.injEq]
   grind
 
+@[ext]
```
Comment (nchappe) [inline Veir/Interpreter/Basic.lean]: Couldn't you get away with just `@[ext]` on the structure definition at this point?

**Review by nchappe — APPROVED** [review]
This is much nicer, thanks!

File: Veir/Interpreter/Basic.lean (hunk 1 above)
Comment (math-fehr) [reply Veir/Interpreter/Basic.lean]: Yes good point, I fixed it now!
